US05763599
Phosgene was introduced into a solution of 2-(2-nitrophenyl)ethanol (5.2 g, 31 mmol) in THF (20 ml, dist. over CaH2) at room temperature under stirring. After 1.5 h, the excess phosgene and the solvent were removed by distillation in a high vacuum. 2-(2-nitrophenyl)ethoxycarbonyl chloride (6.69 g, 94%) was obtained as a yellow oil.

reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2-(2-nitrophenyl)ethanol | 31 mmol, 5.2 g | [N+](=O)([O-])C1=C(C=CC=C1)CCO | C8H9NO3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(2-nitrophenyl)ethoxycarbonyl chloride | 6.69 g, 94% | [N+](=O)([O-])C1=C(C=CC=C1)CCOC(=O)Cl | C9H8ClNO4
